US08252831B2
Methyl 5-(tert-butoxycarbonylaminomethyl)-2-(difluoromethyl)benzoate
To a solution of methyl 5-(aminomethyl)-2-(difluoromethyl)benzoate hydrochloride (1.76 g, 6.99 mmol, 1.0 equiv) in methanol (30 mL), add triethylamine (2.14 mL, 15.39 mmol, 2.2 equiv) and di-tert-butyldicarbonate (1.89 g, 8.39 mmol, 1.2 equiv). Stir the mixture for 30 min at room temperature and concentrate under reduced pressure. Dilute with EtOAc (100 mL), and wash with water and saturated aqueous NaCl. Separate the organic layer and dry over Na2SO4, filter, and concentrate under reduced pressure. Subject the crude material to flash chromatography on silica gel eluting with a 5-10% THF/hexanes gradient to give the title compound (2.0 g, 90%). MS (m/z) 314 (M−1).

reactant | methyl 5-(aminomethyl)-2-(difluoromethyl)benzoate hydrochloride | 6.99 mmol, 1.76 g, 1.0 equiv | Cl.NCC=1C=CC(=C(C(=O)OC)C1)C(F)F
reactant | triethylamine | 15.39 mmol, 2.14 mL, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 8.39 mmol, 1.89 g, 1.2 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 30 mL | CO | CH4O
product | Methyl 5-(tert-butoxycarbonylaminomethyl)-2-(difluoromethyl)benzoate | 2.0 g, 90% | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)OC)C1)C(F)F | C15H19F2NO4
